US07601856B2
Following the procedure for Example 1, tetrahydro-dibenzofuran-2-ylamine (1.1 g, 6.0 mmol), isovaleryl chloride (0.82 g, 6.6 mmol), and triethylamine (2.6 mL, 18 mmol) in tetrahydrofuran (11 mL) provided 3-methyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-butyramide (0.69 g) after recrystallization from t-butyl methyl ether. Mp 154-157° C.; Anal. Calcd. for C17H21NO2: C, 75.25; H, 7.80; N, 5.16; Found: C, 75.20; H, 7.87; N, 5.26.

reactant | tetrahydro-dibenzofuran-2-ylamine | 6.0 mmol, 1.1 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | isovaleryl chloride | 6.6 mmol, 0.82 g | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | 18 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | 3-methyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-butyramide | 0.69 g | CC(CC(=O)NC1=CC2=C(OC3=C2CCCC3)C=C1)C | C17H21NO2
